US07902248B2
(E)-(3-chloro-4-methanesulfonyl-phenyl)-cyclohexyloxyimino-acetic acid (112 mg, 0.31 mmol), N,N-diisopropylethylamine (163 μL, 0.94 mmol) and 1-methyl-1H-pyrazol-3-ylamine (30 μL, 0.31 mmol) were combined in methylene chloride (1.5 mL) and cooled to 0° C. O-(7-Azabenzotriazole-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (118 mg, 0.31 mmol) was added and the cooling bath was removed. After stirring 16 h, the reaction mixture was diluted with chloroform (2 mL) and washed with saturated aqueous sodium bicarbonate solution (1.5 mL). The aqueous phase was extracted with chloroform (1.5 mL) and the combined organic phases were filtered through sodium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (Merck silica gel 60, 40-63 μm; 50% ethyl acetate/hexanes) to afford (E)-2-(3-chloro-4-methanesulfonyl-phenyl)-2-cyclohexyloxyimino-N-(1-methyl-1H-pyrazol-3-yl)-acetamide (110 mg, 81%) as a white solid after lyophilization from aqueous dioxane: LC-MS (ESI) m/e calcd for C19H23ClN4O4S [M+] 438.11, found 439 [M+H+]; H1-NMR (400 MHz, CDCl3) δ ppm 1.24-1.61 (m, 6H, 3×CH2), 1.71 (m, 2H, 2×CH of CH2), 1.96 (m, 2H, 2×CH of CH2), 3.29 (s, 3 H, SO2CH3), 3.85 (s, 3 H, NCH3), 4.29 (m, 1 H, OCH), 6.69 (d, J=2.3 Hz, 1 H, Ar), 7.28 (d, J=2.3 Hz, 1 H, Ar), 7.60 (dd, Jo=8.2, Jm=1.5 Hz, 1 H, Ar), 7.71 (d, Jm=1.5 Hz, 1 H, Ar), 8.20 (d, Jo=8.2 Hz, 1 H, Ar), 9.15 (s, 1 H, NH).

reactant | (E)-(3-chloro-4-methanesulfonyl-phenyl)-cyclohexyloxyimino-acetic acid | 0.31 mmol, 112 mg | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)O)=N/OC1CCCCC1 | C15H18ClNO5S
reactant | N,N-diisopropylethylamine | 0.94 mmol, 163 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-methyl-1H-pyrazol-3-ylamine | 0.31 mmol, 30 μL | CN1N=C(C=C1)N | C4H7N3
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-(3-chloro-4-methanesulfonyl-phenyl)-2-cyclohexyloxyimino-N-(1-methyl-1H-pyrazol-3-yl)-acetamide | 110 mg, 81% | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)NC1=NN(C=C1)C)=N/OC1CCCCC1 | C19H23ClN4O4S
